US08492372B2
N-ETHYL-N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE
Preparation according to Example 34 using 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine (7 mg, 0.021 mmol), N-ethylethanamine (0.5 ml) and EtOH (3 ml). MS m/z (rel. intensity, 70 eV) 317 (M+, 0.3), 95 (4), 87 (6), 86 (bp), 75 (4), 58 (7).

reactant | 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.021 mmol, 7 mg | BrCC1OCC2=C(O1)C=C(C=C2F)S(=O)(=O)C | C10H10BrFO4S
reactant | N-ethylethanamine | 0.5 ml | C(C)NCC | C4H11N
solvent | EtOH | 3 ml | CCO | C2H6O
product | N-ETHYL-N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE | C(C)N(CC)CC1OCC2=C(O1)C=C(C=C2F)S(=O)(=O)C | C14H20FNO4S
